* EESchema Netlist Version 1.1 (Spice format) creation date: 2013-03-25 22:11:46

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
P4  0 28 22 23 24 CONN_5		
K1  0 25 CONN_2		
P5  99 0 100 31 101 32 102 33 103 34 104 7 105 6 98 0 HE10-16		
P6  0 2 3 1 4 5 CONN_6		
K2  0 28 CONN_2		
K3  0 26 9 CONN_3		
K4  0 11 CONN_2		
P1  8 0 U.FL		
P2  19 0 U.FL		
P3  12 0 U.FL		
K5  13 COLONETTE		
K6  14 COLONETTE		
K7  15 COLONETTE		
K10  16 COLONETTE		
K8  17 COLONETTE		
K9  18 COLONETTE		
*Sheet Name:/Mixer 9Mhz/
C1  20 46 CP		
C2  21 46 CP		
RVAR1  45 41 46 RVAR		
R3  39 26 1k		
R1  9 42 1k		
C4  44 43 1n		
MX1  44 40 45 41 38 37 36 12 SBL-1		
R2  43 0 1k		
C5  39 19 1n		
C3  42 8 1n		
D1  42 43 DIODE		
D2  39 43 DIODE		
*Sheet Name:/MIC/
Q1  35 22 0 BSS123		
R5  22 0 R		
C6  23 21 C		
R4  5 23 R		
*Sheet Name:/Filtre Passe Bas/
C7  29 64 C		
R6  50 65 10k		
C9  1 0 100n		
C8  1 0 10U		
C11  3 0 100n		
C10  0 3 10U		
R12  50 54 39k//39k		
R10  50 53 10k		
R8  50 64 10k		
R13  66 20 10k		
R9  49 66 10k		
R11  48 66 39k//39k		
R7  65 66 10k		
U1  65 49 48 66 0 3 1 1 0 67 67 0 3 3 0 0 50 54 53 64 MF10		
U4  63 67 52 63 51 67 0 72 91 63 68 72 63 4 74HC74		
U5  47 0 30 4 OSC		
U2  30 0 0 0 0 0 0 0 0 0 63 0 63 63 55 56 57 58 59 60 61 62 52 4 74HC4059		
U3  0 62 99 100 61 60 101 102 59 0 6 58 103 104 57 56 105 98 55 4 74HC377		
C16  0 30 C		
C15  4 0 C		
C14  4 0 100n		
C13  4 0 C		
C12  4 0 100n		
R14  4 62 R		
R15  4 61 R		
R16  4 60 R		
R17  4 59 R		
R18  4 58 R		
R19  4 57 R		
R20  4 56 R		
R21  4 55 R		
P7  20 64 CAVALIER		
*Sheet Name:/NOTCH/
R28  88 87 11k5		
R27  86 87 11k5		
R26  87 80 11.5k		
R25  85 90 11.5k		
R23  90 89 11.5k		
R24  89 79 11.5k		
R22  89 84 11.5k		
U6  90 89 0 3 0 87 86 1 MC33172		
C19  1 0 100n		
C18  1 0 CP		
C21  3 0 100n		
C20  0 3 CP		
R29  78 86 R		
R35  85 80 11.5k		
R33  85 69 100k		
R31  85 88 11.5k		
R36  71 29 11.5k		
R32  70 71 100k		
R34  84 71 11.5k		
R30  79 71 11.5k		
U7  79 70 84 71 0 3 1 1 0 72 72 0 3 3 0 0 85 80 69 88 MF10		
U8  30 0 0 0 0 0 0 0 0 0 63 0 63 63 73 74 75 76 77 81 82 83 68 4 74HC4059		
U9  0 83 99 100 82 81 101 102 77 0 7 76 103 104 75 74 105 98 73 4 74HC377		
C24  4 0 100n		
C23  4 0 100n		
C22  4 0 100n		
R37  4 83 R		
R38  4 82 R		
R39  4 81 R		
R40  4 77 R		
R41  4 76 R		
R42  4 75 R		
R43  4 74 R		
R44  4 73 R		
C17  78 27 C		
P8  29 78 CAVALIER		
*Sheet Name:/HP/
C27  0 25 470p		
R45  94 0 1		
C30  28 94 100n		
C29  92 28 470U		
C32  93 25 NC		
R48  92 93 NC		
R47  92 97 470		
R46  97 0 10		
U10  25 96 0 92 5 TDA2003		
C25  5 0 1000U		
C26  0 5 100n		
C31  97 96 100U		
C28  95 25 15n		
RVAR2  0 27 95 RVAR		

.end
